US05314887
Part F: 2-Amino-1,4-dihydro-4-(2-{4-[4-(2-methoxyphenyl)-1-piperazinyl]-butylsulfonyl}phenyl)-6-methyl-5-nitro-3-pyridinecarboxylic acid methyl ester
0.89 g of 2-amino-1,4-dihydro-4-{2-[(4-chlorobutyl)sulfonyl]phenyl}-6-methyl-5-nitro-3-pyridinecarboxylic acid methyl ester was treated with 0.60 g of sodium iodide, 0.34 g of sodium bicarbonate and 0.42 g of 2-methoxyphenyl-1-piperazine in 25 ml of DMF using the procedure as described for Example 3. Purification via column chromatography on silica gel, eluting with 60:35:5 toluene:ethyl acetate:methanol gave 0.10 g of product, m.p. 145°-147° C. 1H-NMR (d6 -DMSO) δ 1.57-1.63(m,2H); 1.80-1.87(m,2H); 2.36(t,2H,J=7 Hz); 2.45(s,3H); 2.49(s,4H); 2.94(s,4H); 3.35(m,2H); 3.40(s,3H); 3.77(s,3H); 6.50(s,1H); 6.88-6.92(m,6H); 7.35-7.81(m,4H); 9.50(br s,1H). Mass spectrum: 600 (M+H).

reactant | 2-amino-1,4-dihydro-4-{2-[(4-chlorobutyl)sulfonyl]phenyl}-6-methyl-5-nitro-3-pyridinecarboxylic acid methyl ester | 0.89 g | COC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)S(=O)(=O)CCCCCl)[N+](=O)[O-])C)N | C18H22ClN3O6S
reactant | sodium iodide | 0.60 g | [I-].[Na+]
reactant | sodium bicarbonate | 0.34 g | C([O-])(O)=O.[Na+]
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2-Amino-1,4-dihydro-4-(2-{4-[4-(2-methoxyphenyl)-1-piperazinyl]-butylsulfonyl}phenyl)-6-methyl-5-nitro-3-pyridinecarboxylic acid methyl ester | 0.10 g | COC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)S(=O)(=O)CCCCN1CCN(CC1)C1=C(C=CC=C1)OC)[N+](=O)[O-])C)N | C29H37N5O7S
